US08536179B2
To a stirred solution of 1-isopropyl-6-methoxy-1H-indole-4-carboxylic acid methyl ester (320 mg, 1.29 mmol) in THF (2 mL) was added LiOH.H2O (160 mg, 3.88 mmol) in water (2 mL) at room temperature and heated at reflux for 2 h. The THF was removed under reduced pressure and the resulting aqueous layer was acidified with 1 N HCl (pH ˜6) and extracted with ethyl acetate (2×5 mL). The combined organic layer was dried over anhydrous Na2SO4 and concentrated to afford 1-isopropyl-6-methoxy-1H-indole-4-carboxylic acid (210 mg). 1H NMR (400 MHz, DMSO-d6): δ 1.42 (d, 6H), 3.88 (s, 3H), 4.85 (m, 1H), 6.81 (d, J=2.8 Hz, 1H), 7.26 (s, 2H), 7.45 (s, 1H), 12.68 (s, 1H).

reactant | 1-isopropyl-6-methoxy-1H-indole-4-carboxylic acid methyl ester | 1.29 mmol, 320 mg | COC(=O)C=1C=2C=CN(C2C=C(C1)OC)C(C)C | C14H17NO3
reactant | LiOH.H2O | 3.88 mmol, 160 mg | O[Li].O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 1-isopropyl-6-methoxy-1H-indole-4-carboxylic acid | 210 mg | C(C)(C)N1C=CC=2C(=CC(=CC12)OC)C(=O)O | C13H15NO3
